US07241792B2
(Z)-Ethyl 5-phenylpent-4-enoate (1.600 g, 7.833 mmol) was taken up in dichloromethane (100 mL) under N2 and chilled to −78° C. DIBAL (1M in hexanes, 9 mL, 9.0 mmol) was added and the reaction mixture was stirred at −78° C. for 3 hours. The excess DIBAL was quenched with the slow addition of methanol (25 mL). The resulting solution was poured into a saturated solution of sodium/potassium tartarate (400 mL). Further hexane (150 mL) was added and the mixture was stirred at room temperature over night. The organic phase was collected and solvent removed under reduced pressure. The resulting oil was purified by column chromatography (0–20% EtOAc/n-hexane, silica) to give (Z)-5-phenylpent-4-enal as a pale yellow oil. 1H NMR (CDCl3): δ 9.77 (s, 1H), 7.36–7.29 (m, 2H), 7.25–7.21 (m, 3H), 6.49 (d, 1H, J=11.5), 5.62 (dt, 1H, J1=11.6, J2=7.2, Ph-CHCH), 2.70–2.62 (m, 2H), 2.60–2.55 (m, 2H). Contains ca. 16% (E)-5-phenylpent-4-enal.

reactant | (Z)-Ethyl 5-phenylpent-4-enoate | 7.833 mmol, 1.600 g | C1(=CC=CC=C1)\C=C/CCC(=O)OCC | C13H16O2
reactant | DIBAL | 9.0 mmol, 1M, 9 mL | CC(C)C[AlH]CC(C)C
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | (Z)-5-phenylpent-4-enal | C1(=CC=CC=C1)\C=C/CCC=O | C11H12O
